US04965257
N-Methyl-3-[4-(4-n-propyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)phenyl]-prop-2-yn-thioamide was prepared from 1-(4-ethynylphenyl)-4-n-propyl-2,6,7-trioxabicyclo[2,2,2]octane and methyl isothiocyanate in a manner analogous to the synthesis of N-Methyl-3-[4-(4-n-propyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)phenyl]-prop-2-ynamide.

reactant | 1-(4-ethynylphenyl)-4-n-propyl-2,6,7-trioxabicyclo[2,2,2]octane | C(#C)C1=CC=C(C=C1)C12OCC(CO1)(CO2)CCC | C16H18O3
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
reactant | N-Methyl-3-[4-(4-n-propyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)phenyl]-prop-2-ynamide | CNC(C#CC1=CC=C(C=C1)C12OCC(CO1)(CO2)CCC)=O | C18H21NO4
product | N-Methyl-3-[4-(4-n-propyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)phenyl]-prop-2-yn-thioamide | CNC(C#CC1=CC=C(C=C1)C12OCC(CO1)(CO2)CCC)=S | C18H21NO3S
